US07074809B2
A suspension of dimethyl-5-methoxy-isophthalate (6.4 g, 28.5 mmol) in methanol (143 mL) was treated with 1 N sodium hydroxide (25.6 mL, 25.6 mmol). The reaction was left stirring overnight at room temperature. After the solution was concentrated, the residue was dissolved in water and transferred to a separatory funnel. The aqueous layer was washed with dichloromethane (3 times) and then acidified with 1 N HCl to pH 2. Ethyl acetate was used to extract the precipitate, which was then washed with brine and dried over anhydrous sodium sulfate. After removal of solvent in vacuo, 4.5 g (75%) of 5-methoxyisophthalic acid monomethyl ester was isolated as a white solid. 1H NMR (DMSO), δ(ppm): 8.17 (m, 1H), 7.60 (m, 2H), 3.80 (s, 3H), 3.76 (s, 3H).

reactant | dimethyl-5-methoxy-isophthalate | 28.5 mmol, 6.4 g | COC(C1=CC(C(=O)OC)=CC(=C1)OC)=O | C11H12O5
reactant | sodium hydroxide | 25.6 mmol, 1 N, 25.6 mL | [OH-].[Na+]
solvent | methanol | 143 mL | CO | CH4O
product | 5-methoxyisophthalic acid monomethyl ester | 4.5 g, 75% | COC(C1=CC(C(=O)O)=CC(=C1)OC)=O | C10H10O5
